US04657899
Diethyl 2-(3-bromopropyl)benzylphosphonate
In a round bottom flask equipped for distillation, 11.36 g (38.9 mmol) of 2-(3-bromopropyl)benzyl bromide and 6.46 (38.9 mmol) of freshly distilled triethylphosphite were heated with stirring at 100°-110° C. on an oil bath. When ethyl bromide ceased distilling off (about 2 h) the remaining volatile by-products and the triethylphosphite were removed from the mixture by distillation under vacuum. The remaining oil was chromatographed on a column of silica gel with hexame-ethyl acetate (1:1) as eluant. The combined fractions were concentrated under reduced pressure to yield 11.2 g (83%) of the product as a clear oil. IR(neat): 2985, 1496, 1450, 1391, 1252, 1162, 104, 967, 843, 802, 758 cm-1. 1H NMR(CDCl3) δ 1.2 (t, 6); 1.8-2.3 (m, 2H); 2.7-3.55 (m, 4H); 3.8-4.2 (m, 2H); 7.1-7.4 (m, 4H).

reactant | 2-(3-bromopropyl)benzyl bromide | 38.9 mmol, 11.36 g | BrCCCC1=C(CBr)C=CC=C1 | C10H12Br2
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
product | Diethyl 2-(3-bromopropyl)benzylphosphonate | 11.2 g, 83% | BrCCCC1=C(CP(OCC)(OCC)=O)C=CC=C1 | C14H22BrO3P
